US07888352B2
Tert-butyl 4-((2-chloro-4-morpholinothieno[2,3-d]pyrimidin-6-yl)methyl)piperazine-1-carboxylate (4.08 gm) was reacted with 2.79 g 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine via General Procedure A to yield 4.38 g tert-butyl 4-((2-(2-aminopyrimidin-5-yl)-4-morpholinothieno[2,3-d]pyrimidin-6-yl)methyl)piperazine-1-carboxylate. 150 mg of this crude intermediate was subjected to General Procedure D and subsequently reacted with 84 mg D-lactic Acid via General Procedure B to give 28 mg of 398 after reverse phase HPLC purification. MS (Q1) 485.3 (M)+.

reactant | Tert-butyl 4-((2-chloro-4-morpholinothieno[2,3-d]pyrimidin-6-yl)methyl)piperazine-1-carboxylate | 4.08 gm | ClC=1N=C(C2=C(N1)SC(=C2)CN2CCN(CC2)C(=O)OC(C)(C)C)N2CCOCC2 | C20H28ClN5O3S
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-amine | 2.79 g | CC1(OB(OC1(C)C)C=1C=NC(=NC1)N)C | C10H16BN3O2
product | tert-butyl 4-((2-(2-aminopyrimidin-5-yl)-4-morpholinothieno[2,3-d]pyrimidin-6-yl)methyl)piperazine-1-carboxylate | 4.38 g | NC1=NC=C(C=N1)C=1N=C(C2=C(N1)SC(=C2)CN2CCN(CC2)C(=O)OC(C)(C)C)N2CCOCC2 | C24H32N8O3S
